US05247085
2-Amino-6-chloro-9-[2-(phosphonomethoxy)ethoxy]purine
To a solution of 6-chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]-2-formamidopurine (0.370 g, 0.91 mmol) in dry dimethylformamide (5 ml) was added trimethylsilyl bromide (1.3 ml, 9.6 mmol) and the solution stirred at ambient temperature for 3 hours. The solvent was removed under reduced pressure and the residue co-evaporated with acetone:water 1:1 (×2). The solid residue obtained was crystallised from hot water to give the title compound as a tan solid (0.15 g, 51%), m.p. 190°-195° C. IR: νmax (KBr) 3480, 3430, 3200, 3150, 2920, 1660, 1625, 1570, 1525, 1480, 1370, 1320, 1235, 1195, 1125, 1105, 1030, 995, 950, 920, 880, 780 cm-1. 1H NMR: δH [(CD3)2SO] 3.63 (2H, d, J=8.52 Hz, OCH2P), 3.81 (2H, m, CH2OCH2P), 4.45 (2H, m, N-OCH2), 2.75-5.25 (2H, broad, D2O exchangeable PO(OH)2), 7.11 (2H, br.s, D2O exchangeable NH2), 8.37 (1H, s, H-8). Found: C,28.89; H,3.51; N,21.15%. C8H11N5O5PCl. 0.5H2O requires: C,28.88; H,3.63; N,21.06%.

reactant | 6-chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]-2-formamidopurine | 0.91 mmol, 0.370 g | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCCOCP(=O)(OCC)OCC | C13H19ClN5O6P
reactant | trimethylsilyl bromide | 9.6 mmol, 1.3 ml | C[Si](C)(C)Br | C3H9BrSi
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-Amino-6-chloro-9-[2-(phosphonomethoxy)ethoxy]purine | 0.15 g, 51% | NC1=NC(=C2N=CN(C2=N1)OCCOCP(=O)(O)O)Cl | C8H11ClN5O5P
